US06762321B2
23.1 g (95.7 mmol) of 4-benzyloxy-3-methoxybenzaldehyde, 8.76 g (143 mmol) of nitromethane and 250 ml of acetic acid were mixed and 7.07 g (96.7 mmol) of butylamine was added dropwise thereto. The mixture was refluxed for 2 hours by heating, and then cooled and poured into ice-water. The precipitated crystals were dissolved with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate and the solvent was distilled off under reduced pressure. The residue was washed with hexane and dried to give 17.0 g of 1-benzyloxy-2-methoxy-4-(2-nitrovinyl)benzene.

reactant | 4-benzyloxy-3-methoxybenzaldehyde | 95.7 mmol, 23.1 g | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)OC | C15H14O3
reactant | nitromethane | 143 mmol, 8.76 g | [N+](=O)([O-])C | CH3NO2
reactant | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
reactant | butylamine | 96.7 mmol, 7.07 g | C(CCC)N | C4H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-benzyloxy-2-methoxy-4-(2-nitrovinyl)benzene | 17.0 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C=C[N+](=O)[O-])OC | C16H15NO4
